US07872014B2
A mixture of 1-(chloromethyl)-2,3-bis{[2-(methyloxy)ethyl]oxy}benzene (1.15 g, 4.19 mmol) and potassium cyanide (0.82 g, 12.56 mmol) in DMF (10 mL) was stirred at 70° C. for 17 h. After cooling to rt, ethyl acetate (100 mL) was added, and the mixture was washed with sat. sodium bicarbonate (30 mL), 5% aqueous LiCl (2×30 mL), and brine (30 mL), dried with sodium sulfate, and concentrated. Column chromatography on silica (2:1 hexanes/ethyl acetate) afforded (2,3-bis{[2-(methyloxy)ethyl]oxy}phenyl)acetonitrile (0.94 g, 85% yield) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ7.02 (m, 2H), 6.88 (dd, 1H), 4.28 (m, 2H), 4.13 (m, 2H), 3.84 (s, 2H), 3.75 (m, 2H), 3.63 (m, 2H), 3.43 (s, 3H), 3.41 (s, 3H).

reactant | 1-(chloromethyl)-2,3-bis{[2-(methyloxy)ethyl]oxy}benzene | 4.19 mmol, 1.15 g | ClCC1=C(C(=CC=C1)OCCOC)OCCOC | C13H19ClO4
reactant | potassium cyanide | 12.56 mmol, 0.82 g | [C-]#N.[K+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (2,3-bis{[2-(methyloxy)ethyl]oxy}phenyl)acetonitrile | 0.94 g, 85% yield | COCCOC1=C(C=CC=C1OCCOC)CC#N | C14H19NO4
